US09301525B2
N-[1-((6-fluoropyridin-3-yl)methyl)pyridin-2(1H)-ylidene]-2,2,2-trifluoroacetamide (Compound P229)
57 mg (0.30 mmol) of the 5-bromomethyl-2-fluoropyridine obtained by the aforementioned method was dissolved in 10 ml of anhydrous acetonitrile, 57 mg (0.30 mmol) of 2,2,2-trifluoro-N-(pyridin-2(1H)-ylidene)acetoamide synthesized by the method described in (1) of Synthetic Example P1 and 69 mg (0.50 mmol) of potassium carbonate were added thereto in sequence, and the resulting mixture was heated and refluxed for 6 hours. After the reaction was completed, the reaction solution was returned to room temperature to filter insoluble materials, and the filtrate was concentrated under reduced pressure. The filtrate was purified by silica gel column chromatography (hexane:ethyl acetate=1:1→3:1) to obtain the subject material. Amount obtained 21 mg (yield 23%).

reactant | 5-bromomethyl-2-fluoropyridine | 0.30 mmol, 57 mg | BrCC=1C=CC(=NC1)F | C6H5BrFN
reactant | 2,2,2-trifluoro-N-(pyridin-2(1H)-ylidene)acetoamide | 0.30 mmol, 57 mg | FC(C(=O)N=C1NC=CC=C1)(F)F | C7H5F3N2O
reactant | potassium carbonate | 0.50 mmol, 69 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | N-[1-((6-fluoropyridin-3-yl)methyl)pyridin-2(1H)-ylidene]-2,2,2-trifluoroacetamide | FC1=CC=C(C=N1)CN1C(C=CC=C1)=NC(C(F)(F)F)=O | C13H9F4N3O
